US04117128
2-(4-Chlorophenyl)-3-[4-(3-diethylaminopropoxy)phenylsulfonyl]benzofuran
Reaction of 2-(4-chlorophenyl)-3-(4-hydroxyphenylsulfonyl)benzofuran with 3-diethylaminopropyl chloride according to the procedure of Example 1 gives the title compound.

reactant | 2-(4-chlorophenyl)-3-(4-hydroxyphenylsulfonyl)benzofuran | ClC1=CC=C(C=C1)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)O)C=CC=C2 | C20H13ClO4S
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 2-(4-Chlorophenyl)-3-[4-(3-diethylaminopropoxy)phenylsulfonyl]benzofuran | ClC1=CC=C(C=C1)C=1OC2=C(C1S(=O)(=O)C1=CC=C(C=C1)OCCCN(CC)CC)C=CC=C2 | C27H28ClNO4S
